US07569578B2
(±)-3-{1-[4-(7-Methyl-1H-indazol-5-yl)-3-pyridin-2-yl-butyryl]-piperidin-4-yl}-3,4-dihydro-1H-quinazolin-2-one
To a solution of 4-(7-methyl-1H-indazol-5-yl)-3-pyridin-2-yl-butyric acid (white solid, 0.028 mmol) in methylene chloride (2 mL) was added 3,4-dihydro-3-(4-piperidinyl-2(1H)-quinazolinone (7.2 mg, 0.031 mmol, 1.1 equiv). Triethylamine (30 μL) was added followed by 3-(diethoxyphosphoryloxy)-1,2,3-benzotriain-4(3H)-one (DEPBT, 9.4 mg, 0.031 mmol 1.1 equiv). The resulting yellow solution was stirred at room temperature for 1 h and LCMS. A further 1 equivalent of the amine and DEPBT were added. After stirring for another 4 h, LCMS indicated complete conversion. The reaction mixture was diluted with ethyl acetate and quenched with 0.5 N sodium hydroxide. The layers were separated and the organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography (10% methanol in methylene chloride) to afford the desired product (9.0 mg, 62% for two steps) as a glassy solid. MS (ESI) [M+H]+=509, 1H-NMR (400 MHz, CDCl3) δ 11.5 (br., 1H), 8.61-8.52 (m, 1H), 7.93 (d, J=4.8 Hz, 1H), 7.50-7.38 (m, 1H), 6.90 (m, 8H), 6.66 (d, J=7.6 Hz, 1H), 4.72-4.62 (m, 1H), 4.59-4.48 (m, 1H), 4.24 (s, 1H), 4.09 (s, 1H), 4.07-3.94 (m, 1H), 3.80-3.66 (m, 1H), 3.20-2.80 (m, 4H), 2.72-2.46 (m, 2H), 2.45 (d, J=4.8 Hz, 3H), 1.85-1.48 (m, 4H).

reactant | 4-(7-methyl-1H-indazol-5-yl)-3-pyridin-2-yl-butyric acid | 0.028 mmol | CC=1C=C(C=C2C=NNC12)CC(CC(=O)O)C1=NC=CC=C1 | C17H17N3O2
reactant | 4-piperidinyl-2(1H)-quinazolinone | 0.031 mmol, 7.2 mg, 1.1 equiv | N1(CCCCC1)C1=NC(NC2=CC=CC=C12)=O | C13H15N3O
reactant | Triethylamine | 30 μL | C(C)N(CC)CC | C6H15N
reactant | DEPBT | CCOP(=O)(OCC)ON1C(=O)C2=C(C=CC=C2)N=N1 | C11H14N3O5P
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (±)-3-{1-[4-(7-Methyl-1H-indazol-5-yl)-3-pyridin-2-yl-butyryl]-piperidin-4-yl}-3,4-dihydro-1H-quinazolin-2-one | 9.0 mg, 62% | CC=1C=C(C=C2C=NNC12)CC(CC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)C1=NC=CC=C1 | C30H32N6O2
